US08536179B2
To a solution of sodium (5.83 g, 243.3 mmol) in dry toluene (62.5 mL) was added ethyl (methyloxy)acetate (24 g, 203.4 mmol) at −5° C. After stirring for 3 h, acetone (14 g, 231.4 mmol) was slowly added, upon which the mixture became brown and viscous. Next added 72 mL of tert-butyl methyl ether, and the reaction mixture was stirred at room temperature for 12 h, after which time the sodium salt precipitated. After collection and washing with additional tert-butyl methyl ether, the sodium salt was dissolved in 46 mL of 20% H2SO4. The contents were extracted with tert-butyl methyl ether and the organic layers concentrated to afford 1-(methyloxy)-2,4-pentanedione (9.76 g, 36.9%). 1H NMR (400 MHz, CDCl3-d3) δ 5.76 (s, 1H), 3.96 (s, 2H), 3.38 (s, 3H), 2.07 (s, 3H).

reactant | sodium | 243.3 mmol, 5.83 g | [Na] | Na
reactant | ethyl (methyloxy)acetate | 203.4 mmol, 24 g | COCC(=O)OCC | C5H10O3
reactant | acetone | 231.4 mmol, 14 g | CC(=O)C | C3H6O
reactant | tert-butyl methyl ether | 72 mL | COC(C)(C)C | C5H12O
solvent | toluene | 62.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(methyloxy)-2,4-pentanedione | 9.76 g, 36.9% | COCC(CC(C)=O)=O | C6H10O3
